US05574016
To a mixture of 4-amidino-N-t-butoxycarbonyl-L-phenylalanine hydroiodide (1.00 g), 4N sodium hydroxide aqueous solution (1.15 ml), tetrahydrofuran (2 ml), and water (10 ml), a solution of benzyloxycarbonyl chloride in tetrahydrofuran (2 ml) was added, being adjusted to pH=12~12.5 with 4N sodium hydroxide aqueous solution. The reaction mixture was diluted with water and diethyl ether, and the separated aqueous layer was neutralized with 10% hydrochloric acid and extracted with ethyl acetate, and washed with water and brine, and dried over magnesium sulfate. After evaporation in vacuo, the resulting precipitate was collected by filtration and washed with diethyl ether to give 4-(N-benzyloxycarbonylamidino)-N-t-butoxycarbonyl-L-phenylalanine (0.53 g).

reactant | 4-amidino-N-t-butoxycarbonyl-L-phenylalanine hydroiodide | 1.00 g | I.C(N)(=N)C1=CC=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)O)C=C1
reactant | sodium hydroxide | 4N, 1.15 ml | [OH-].[Na+]
reactant | benzyloxycarbonyl chloride | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(N-benzyloxycarbonylamidino)-N-t-butoxycarbonyl-L-phenylalanine | 0.53 g | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)O)C=C1 | C23H27N3O6
